US07612114B2
tert-Butyl [2-(4-cyanophenoxy)-1,1-dimethylethyl]carbamate
To a solution of 4-(2-amino-2-methylpropoxy)benzonitrile (3.2 g) in dichloromethane (50 ml) and triethylamine (6 ml) was added di-tert-butyl dicarbonate (4.5 g) on an ice bath, and the solution was stirred overnight followed by warming up to room temperature. Water was added thereto followed by stirring, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (4.2 g).

reactant | 4-(2-amino-2-methylpropoxy)benzonitrile | 3.2 g | NC(COC1=CC=C(C#N)C=C1)(C)C | C11H14N2O
reactant | di-tert-butyl dicarbonate | 4.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
product | tert-Butyl [2-(4-cyanophenoxy)-1,1-dimethylethyl]carbamate | 4.2 g | C(#N)C1=CC=C(OCC(C)(C)NC(OC(C)(C)C)=O)C=C1 | C16H22N2O3
